US06875769B2
2-Methyl-8-(2,4,6-trimethyl-phenyl)-quinolin-4-ol
A mixture of 2′,4′,6′-trimethyl-biphenyl-2-ylamine(607 mg, 2.88 mmol) and methyl acetylacetone (607 mg, 5.75 mmol) in polyphosphoric acid (3 ml) was heated in 170° C. oil bath for 2.5 hours. The mixture was quenched with water and extracted twice with chloroform. The organic layer was washed with brine, dried and concentrated to give the title compound as an oil. The oil was pumped in vacuo, then trituated with a mixture of ether and hexane to give 642 mg (81%) of the title compound as a beige solid. The solid was recrystallized from ethyl acetate to give a beige solid, mp>250° C.

reactant | 2′,4′,6′-trimethyl-biphenyl-2-ylamine | 2.88 mmol, 607 mg | CC1=C(C(=CC(=C1)C)C)C1=C(C=CC=C1)N | C15H17N
reactant | methyl acetylacetone | 5.75 mmol, 607 mg | CC(C(C)=O)C(C)=O | C6H10O2
product | 2-Methyl-8-(2,4,6-trimethyl-phenyl)-quinolin-4-ol | CC1=NC2=C(C=CC=C2C(=C1)O)C1=C(C=C(C=C1C)C)C | C19H19NO
